US06677368B2
To a mixture of 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole (15.52 g, 63.72 mmol), and 3-bromo-phenylacetic acid (13.78 g, 63.72 mmol) in THF (192 mL) were added Palladium catalyst Pd(PPh3)4 (2.21 g, 1.9 mmol) and the freshly prepared sodium hydroxide solution (7.65 g in 90 mL of water). The system was degassed and then charged with nitrogen. The degas procedure was repeated for three times. The mixture was stirred under nitrogen in a 70° C. oil bath for over the weekend. TLC showed the completion of the coupling reaction. The mixture was cooled to room temperature, diluted with ethyl acetate, and separated from water layer. The water layer was acidified with dil. HCl solution to pH 4-5 and extracted with ethyl acetate. The ethyl acetate solution was washed with water, brine, and dried over Na2SO4. After filtration, the solvents were evaporated, and the crude product was purified on a silica gel column to give 13.5 g (84%) of [3-(1H-indol-4-yl)-phenyl]-acetic acid.

reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole | 63.72 mmol, 15.52 g | CC1(OB(OC1(C)C)C1=C2C=CNC2=CC=C1)C | C14H18BNO2
reactant | 3-bromo-phenylacetic acid | 63.72 mmol, 13.78 g | BrC=1C=C(C=CC1)CC(=O)O | C8H7BrO2
reactant | sodium hydroxide | 90 mL, 7.65 g | [OH-].[Na+]
solvent | THF | 192 mL | C1CCOC1 | C4H8O
catalyst | Palladium | 1.9 mmol, 2.21 g | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [3-(1H-indol-4-yl)-phenyl]-acetic acid | 13.5 g, 84% | N1C=CC2=C(C=CC=C12)C=1C=C(C=CC1)CC(=O)O | C16H13NO2
